US06777406B2
(±)-cis-2-(2,4-dichlorophenyl)-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline
Using 2,4-dichlorobenzeneboronic acid and following the procedures described in EXAMPLE 20, (±)-cis tert-butyl 2-bromo-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate was converted into (±)-cis-2-(2,4-dichlorophenyl)-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline, trifluoroacetic acid salt, after HPLC purification (C18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA). This material was free-based with aq ammonium hydroxide, extracted with chloroform, washed with brine, dried (K2CO3) and concentrated to the title compound of EXAMPLE 112 as the free base. 1H NMR (CDCl3) δ: 7.46 (d, 1H, J=2.2 Hz), 7.29-7.20 (m, 2H), 7.05 (d, 1H, J=1.1 Hz), 6.93 (d, 1H, J=0.8 Hz), 3.58 (dd, 1H, J=10.9, 7.7 Hz ), 3.50-3.30 (m, 4H), 3.15-2.95 (m, 5H), 2.90-2.77 (m, 2H). LRMS (ES)+: 345.2 (M+H)+.

reactant | 2,4-dichlorobenzeneboronic acid | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | (±)-cis tert-butyl 2-bromo-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate | BrC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
product | (±)-cis-2-(2,4-dichlorophenyl)-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline | ClC1=C(C=CC(=C1)Cl)C=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CNC3 | C19H18Cl2N2
